US09282743B2
Step 4: Preparation of Carbonic acid ethyl ester 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester (title compound P1.2)
To a solution of 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione (106 mg, 0.33 mmol), triethylamine (0.070 ml, 51 mg, 0.50 mmol) and a catalytic amount of 4-dimethylaminopyridine in tetrahydrofuran (2 ml) at 0° C. was added ethyl chloroformate (0.035 ml, 40 mg, 0.37 mmol) dropwise. The suspension was stirred at 0° C. for 20 minutes, treated with more triethylamine (0.070 ml, 51 mg, 0.50 mmol) and ethyl chloroformate (0.035 ml, 40 mg, 0.37 mmol) dropwise, and further stirred at 0° C. for 10 minutes. The solvent was evaporated, the residue diluted with ethyl acetate, the organic phase washed with water and brine, dried over sodium sulfate and concentrated. The gummy residue was triturated in cyclohexane and diethyl ether, stirred at room temperature, filtered and dried. Yield: 100 mg of carbonic acid ethyl ester 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester (title compound P1.2) as a pale yellow solid.

reactant | 3-methoxy-8-(2,4,6-trimethyl-phenyl)-tetrahydro-pyrazolo[1,2-a][1,2,5]triazepine-7,9-dione | 0.33 mmol, 106 mg | CON1CCN2N(CC1)C(C(C2=O)C2=C(C=C(C=C2C)C)C)=O | C17H23N3O3
reactant | triethylamine | 0.50 mmol, 0.070 ml, 51 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.37 mmol, 0.035 ml, 40 mg | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.50 mmol, 0.070 ml, 51 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.37 mmol, 0.035 ml, 40 mg | ClC(=O)OCC | C3H5ClO2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Carbonic acid ethyl ester 3-methoxy-9-oxo-8-(2,4,6-trimethyl-phenyl)-2,3,4,5-tetrahydro-1H,9H-pyrazolo[1,2-a][1,2,5]triazepin-7-yl ester | CON1CCN2N(CC1)C(C(=C2OC(OCC)=O)C2=C(C=C(C=C2C)C)C)=O | C20H27N3O5
